US05707985
N-Cyclohexyl-5-chloro-2-naphthalenesulfonamide
The title compound was prepared from the coupling of cyclohexylamine and 5-chloro-2-naphthalenesulfonyl chloride. Cyclohexylamine (1.0 g, 3.8 mmol) and diisopropyl ethylamine (1.35 ml, 7.7 mmol) were dissolved in 30 ml chloroform. 5-Chloro-1-naphthalenesulfonyl chloride (0.88 m., 7.7 mmol) in 20 ml chloroform was added dropwise to the solution. After stirring overnight, the CHCl3 solution was washed with saturated sodium bicarbonate solution and brine. Drying over magnesium sulfate and evaporation of the CHCl3 followed by recrystallization with isopropyl ether/methanol gave 0.92 g (75% yield) of a yellow solid: mp 133°-134° C.; 1H NMR (CDCl3): 8.48 (d, J=1.8, 1 H, H1), 8.38 (d, J=9.0, 1 H, H3), 8.00 (d, J=9.0, 1 H, H4), 7.88 (d, J=8.3, 1 H, H6), 7.71 (d, J=7.5, 1 H, H8), 7.51 (t, J=7.8, 1 H, H7), 5.07 (d, J=7.7, 1 H, NH), 3.23-3.15 (m, 1 H, NHCH, 1.77-1.72 (m, 2 H, ring H's), 1.61-1.55 (m, 2H, ring H's), 1.51-1.45 (m, 1H, ring H), 1.22-1.10 (m, 6H ring H's); anal. calcd. for C16H18NO2SCl; C, 59.34; H, 5.60; N, 4.33; found: C, 59.27; H, 5.60; N, 4.30.

reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | 5-chloro-2-naphthalenesulfonyl chloride | ClC1=C2C=CC(=CC2=CC=C1)S(=O)(=O)Cl | C10H6Cl2O2S
reactant | Cyclohexylamine | 3.8 mmol, 1.0 g | C1(CCCCC1)N | C6H13N
reactant | diisopropyl ethylamine | 7.7 mmol, 1.35 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-Chloro-1-naphthalenesulfonyl chloride | 7.7 mmol | ClC1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl | C10H6Cl2O2S
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N-Cyclohexyl-5-chloro-2-naphthalenesulfonamide | C1(CCCCC1)NS(=O)(=O)C1=CC2=CC=CC(=C2C=C1)Cl | C16H18ClNO2S
